US06288096B1
A mixture of 8.5 g (17.8 mmole) 4-(4-methoxyphenylsulfonyloxy)phenethyl 4-methoxy-1-benzenesulfonate, 2.16 g (17.7 mmole) 4-hydroxybenzaldehyde and 10 g (72.5 mmole) potassium carbonate in 60 g acetonitrile was refluxed over night. The salt was filtered off and the solvent was evaporated. The crude product was purified on silica gel using dichloromethane as eluent to give 7.4 g of 4-[2-(4-formylphenoxy)ethyl]phenyl 4-methoxy-1-benzenesulfonate (slightly polluted with the corresponding styrene product).

reactant | 4-(4-methoxyphenylsulfonyloxy)phenethyl 4-methoxy-1-benzenesulfonate | 17.8 mmole, 8.5 g | COC1=CC=C(C=C1)S(=O)(=O)OCCC1=CC=C(C=C1)OS(=O)(=O)C1=CC=C(C=C1)OC | C22H22O8S2
reactant | 4-hydroxybenzaldehyde | 17.7 mmole, 2.16 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | potassium carbonate | 72.5 mmole, 10 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 60 g | C(C)#N | C2H3N
product | 4-[2-(4-formylphenoxy)ethyl]phenyl 4-methoxy-1-benzenesulfonate | 7.4 g | COC1=CC=C(C=C1)S(=O)(=O)OC1=CC=C(C=C1)CCOC1=CC=C(C=C1)C=O | C22H20O6S
